US05446189
A solution of 0.815 g (1.14 mmol) of N-[3-[3-[4-(1,1-dimethylethyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester and 0.76 mL of 6N NaOH in 20 mL of methanol-10 mL of dioxane was stirred at reflux under argon for 5 hours. The solvents were removed at reduced pressure, the residue was acidified with dilute HCl and the product was extracted with ethyl acetate. The dried extract was concentrated at reduced pressure and the residue was crystallized from methanol-water to give 0.72 g (92% yield, mp99°-101°) of N-(carboxymethyl)-N-[3-[3-[4-(1,1-dimethylethyl)phenoxy]propoxy]-5-(octadecyloxy) phenyl]glycine.

reactant | N-[3-[3-[4-(1,1-dimethylethyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 1.14 mmol, 0.815 g | COC(CN(CC(=O)OC)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)C(C)(C)C)=O | C43H69NO7
reactant | NaOH | 6N, 0.76 mL | [OH-].[Na+]
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | N-(carboxymethyl)-N-[3-[3-[4-(1,1-dimethylethyl)phenoxy]propoxy]-5-(octadecyloxy) phenyl]glycine | 0.72 g, 92% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)C(C)(C)C | C41H65NO7
